US07709471B2
methyl3-(cyclohexylamino)propanoate
Cyclohexylamine (Aldrich; 17 g, 0.174 mol) was dissolved in THF (300 mL). To this was added methyl acrylate (Aldrich; 15 g, 0.174 mol) in one portion. The reaction mixture was stirred over the weekend. The solvent was evaporated with care due to the volatility of the product and the residue distilled at 72° C. at 0.30 mbar to yield the title compound as a clear oil (23.7 g, 74%).

reactant | Cyclohexylamine | 0.174 mol, 17 g | C1(CCCCC1)N | C6H13N
reactant | methyl acrylate | 0.174 mol, 15 g | C(C=C)(=O)OC | C4H6O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | methyl3-(cyclohexylamino)propanoate | 23.7 g, 74% | COC(CCNC1CCCCC1)=O | C10H19NO2
